US07736539B2
A mixture of biphenyl (10 g, 0.065 mol) and 4-chlorobenzenesulphonyl chloride (13.69 g, 0.065 mol) in trichlorobenzene (3 mL) was heated with stirring to 110° C. Anhydrous ferric chloride (0.05 g, 0.0003 mmol) was added and stirring was continued at 150° C. for 16 h. The cooled solid was stirred with methanol (200 mL). The product was filtered, washed with methanol, dried, and recrystallised from acetic acid to give 4-(4′-chlorobenzenesulphonyl)biphenyl (13.9 g, 65%); m.p. 169° C. (lit. 171-173° C.).

reactant | biphenyl | 0.065 mol, 10 g | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | 4-chlorobenzenesulphonyl chloride | 0.065 mol, 13.69 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | methanol | 200 mL | CO | CH4O
solvent | trichlorobenzene | 3 mL | ClC=1C(=C(C=CC1)Cl)Cl | C6H3Cl3
product | 4-(4′-chlorobenzenesulphonyl)biphenyl | 13.9 g, 65% | ClC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C18H13ClO2S
